US06605624B1
Step 1: Methyl 4-Hydroxy-2-(trifluoromethyl)-3-pyridinecarboxylate
A mixture of 105 g (0.5 mol) of methyl 2-acetyl-3-amino-4,4,4-trifluoro-2-butenoate (example 2 of U. S. Pat. No. 4,655,816), acetic anhydride (152 9), and trimethyl orthoformate (106 g) was held at reflux for 16 h then distilled to remove low boiling material (bp 65-90° C.) The remaining material was concentrated in vacuo and the residue was kugelrohr distilled at 2 torr (80-120° C.) to give 114 g of distillate. This distillate (44 g) was added dropwise to a mixture of 14.5 g of 60% sodium hydride oil dispersion in 100 ml of 1,2-dimethoxyethane (DME). The reaction mixture was maintained at 25-30° C. with an ice-water bath. The reaction mixture was stirred at room temperature for 18 h and poured into 300 ml of ice-water. The aqueous layer was extracted with ether and filtered. The aqueous layer was acidified with concentrated HCl. The oil precipitate was extracted into ether. The ether extract was extracted with 10% potassium carbonate. The potassium carbonate layer was acidified with concentrated HCl. The precipitate was filtered and air dried to give 20.4 g of the product, mp 78-82° C.

reactant | methyl 2-acetyl-3-amino-4,4,4-trifluoro-2-butenoate | 0.5 mol, 105 g | C(C)(=O)C(C(=O)OC)=C(C(F)(F)F)N | C7H8F3NO3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | trimethyl orthoformate | 106 g | C(OC)(OC)OC | C4H10O3
reactant | sodium hydride oil dispersion | 14.5 g | [H-].[Na+]
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | Methyl 4-Hydroxy-2-(trifluoromethyl)-3-pyridinecarboxylate | 20.4 g | OC1=C(C(=NC=C1)C(F)(F)F)C(=O)OC | C8H6F3NO3
